US07053099B1
c) 2-Phenoxy-6-(phenylamino)benzylamine
The product of example 1b above, 2-phenoxy-6-(2,6-difluorophenylamino)benzonitrile, (0.34 g, 1.06 mmol) was dissolved in dry tetrahydrofuran (40 mL) and stirred under argon in a room temperature water bath. Lithium aluminum hydride (0.384 g, 10.1 mmol) was added, and the reaction mixture was heated to 65° C. for 0.5 hour. The reaction mixture was cooled to room temperature and anhydrous sodium sulfate was added followed by quenching by the addition of a freshly prepared saturated solution of anhydrous sodium sulfate. The solvent was evaporated and the residue triturated with ethyl acetate, filtered and evaporated. Flash chromatography on silica gel eluted with 40% methylene chloride/hexane to which 3% methanol was added followed by Gilson hplc purification gave the title compound as a white amorphous solid. mp 113–116° C.

reactant | 2-phenoxy-6-(2,6-difluorophenylamino)benzonitrile | 1.06 mmol, 0.34 g | O(C1=CC=CC=C1)C1=C(C#N)C(=CC=C1)NC1=C(C=CC=C1F)F | C19H12F2N2O
reactant | Lithium aluminum hydride | 10.1 mmol, 0.384 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 2-Phenoxy-6-(phenylamino)benzylamine | O(C1=CC=CC=C1)C1=C(CN)C(=CC=C1)NC1=CC=CC=C1 | C19H18N2O
